US05359066
A suspension of ethyl 1-methylamino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (10 g) in water (100 ml) and 37% aqueous formaldehyde (100 ml) was heated to 100° C. for 1 hour. The mixture was cooled and the solid removed by filtration and washed with water. The resulting yellow colored solid was dried to constant weight in vacuo over phosphorus pentaoxide to yield ethyl 1-[N-(hydroxymethyl)-N-methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (10.25 g).

reactant | ethyl 1-methylamino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 10 g | CNN1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C13H11F3N2O3
reactant | formaldehyde | 100 ml | C=O | CH2O
solvent | water | 100 ml | O | H2O
product | ethyl 1-[N-(hydroxymethyl)-N-methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 10.25 g | OCN(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C14H13F3N2O4
